US08710245B2
(g) Synthesis of (4H-thieno[3,2-c]chromen-4-yl)methanamine
To a solution of 4-(nitromethyl)-4H-thieno[3,2-c]chromene (2.5 g, 10.7 mmol) in AcOH (20 mL) was added NH4Cl (5.4 g, 100 mmol) and Fe (2.8 g, 50 mmol). After stirring overnight, the reaction mixture was filtered. The filtrate was concentrated under reduced pressure and the residue was purified by column chromatography to give the title compound (2.2 g, 96%).

reactant | 4-(nitromethyl)-4H-thieno[3,2-c]chromene | 10.7 mmol, 2.5 g | [N+](=O)([O-])CC1OC=2C=CC=CC2C2=C1C=CS2 | C12H9NO3S
reactant | NH4Cl | 100 mmol, 5.4 g | [NH4+].[Cl-]
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
catalyst | Fe | 50 mmol, 2.8 g | [Fe] | Fe
product | (4H-thieno[3,2-c]chromen-4-yl)methanamine | 2.2 g, 96% | S1C=CC=2C(OC=3C=CC=CC3C21)CN | C12H11NOS
